US04237307
E-1-Tri-n-butylstannyl-4-methyl-4-trimethylsilyloxy-1,7-octadiene
A mixture of 30 g. of 4-methyl-4-trimethylsilyloxy-oct-1-yn-7-ene, 58.66 g. of tri-n-butylstannane and 200 mg. of azobisisobutyronitrile is placed in a bath at 95° C. and stirred under argon. The mixture is heated at 140° C. for one hour and then at 140° C. under vacuum for 1.5 hours. The mixture is distilled via a Kugelrohr at 140° C., 0.06 mm. to give the product as a colorless liquid.

reactant | 4-methyl-4-trimethylsilyloxy-oct-1-yn-7-ene | CC(CC#C)(CCC=C)O[Si](C)(C)C | C12H22OSi
reactant | tri-n-butylstannane | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | E-1-Tri-n-butylstannyl-4-methyl-4-trimethylsilyloxy-1,7-octadiene | C(CCC)[Sn](\C=C\CC(CCC=C)(O[Si](C)(C)C)C)(CCCC)CCCC | InChI=1S/C12H23OSi.3C4H9.Sn/c1-7-9-11-12(3,10-8-2)13-14(4,5)6;3*1-3-4-2;/h2,7-8H,1,9-11H2,3-6H3;3*1,3-4H2,2H3;
